US06069156
Methyl 3-isobutyryl-2-methylindole-6-carboxylate (142 mg) was prepared from methyl 2-methylindole-6-carboxylate (305 mg) and isobutyryl chloride (0.47 ml) in a similar manner to that of Preparation 1 (5).

reactant | methyl 2-methylindole-6-carboxylate | 305 mg | CC=1NC2=CC(=CC=C2C1)C(=O)OC | C11H11NO2
reactant | isobutyryl chloride | 0.47 ml | C(C(C)C)(=O)Cl | C4H7ClO
product | Methyl 3-isobutyryl-2-methylindole-6-carboxylate | 142 mg | C(C(C)C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)C | C15H17NO3
